US06953801B2
A quantity of 3.0 g (10 mmoles, 1 eq) of 6-(3,4-dimethoxy-phenyl)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide and 0.23 g (1.0 mmoles, 0.1 eq) of platinum dioxide are added into 35 mL of ethanol and 2.0 ml concentrated HCl. The suspension is hydrogenated under 50 psi of H2 at room temperature overnight. After TLC shows no starting material existing, the reaction is filtered through Celite and solvent is removed. The residue is taken in ethyl acetate, washed with saturated Na2CO3 and brine, dried over Na2SO4 and concentrated to give 6-(3,4-dimethoxy-phenyl)-piperidine-2-carboxylic acid (2-hydroxy-ethyl)-amide as a yellowish oil. The oil is triturated with ethyl acetate and hexanes to afford a white solid (1.6 g, 52%). Analysis: NMR (300 MHz, CDCl3): 7.18 (1H, t), 6.90 (2H, m), 6.82 (1H, m), 3.87 (6H, d), 3.66 (3H, m), 3.39 (3H, m), 2.00 (2H, m), 1.80 (1H, m) and 1.22 (2H, m). MS (LC-MS): Calculated for C16H24N2O4 308.37, found 309.34 (M+1).

reactant | 6-(3,4-dimethoxy-phenyl)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | 10 mmoles, 3.0 g, 1 eq | OCCNC(=O)C1=NC(=CC=C1)C1=CC(=C(C=C1)OC)OC | C16H18N2O4
reactant | HCl | 2.0 ml | Cl | ClH
catalyst | platinum dioxide | 1.0 mmoles, 0.23 g, 0.1 eq | [Pt](=O)=O
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 6-(3,4-dimethoxy-phenyl)-piperidine-2-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1NC(CCC1)C1=CC(=C(C=C1)OC)OC | C16H24N2O4
